US07625938B2
A solution of PyBOP (38 mg, 70 umol) in DMF (0.1 ml) was added to a mixture of 4-({3-(3,5-dichlorophenyl)-5-[6-(trifluoromethoxy)-1H-benzimidazol-2-yl]-1H-pyrazol-1-yl}methyl)benzoic acid (20 mg, 36 umol), tert-butyl β-alanine hydrochloride (27 mg, 4 eq.), DIEA (40 ul, 6 eq.) in DMF (0.3 ml). The reaction was quenched with CH3CN:water (5% TFA) and purified with reverse phase HPLC to give tert-butyl N-[4-({3-(3,5-dichlorophenyl)-5-[6-(trifluoromethoxy)-1H-benzimidazol-2-yl]-1H-pyrazol-1-yl}methyl)benzoyl]-β-alaninate as an oil residue. This was treated with TFA/DCM (1:2) and the product was lyophilized to give N-[4-({3-(3,5-Dichlorophenyl)-5-[6-(trifluoromethoxy)-1H-benzimidazol-2-yl]-1H-pyrazol-1-yl}methyl)benzoyl]-β-alanine as a white powder. NMR (500 MHz, DMSO-d6) δ: 2.43 (t, 2H); 3.4 (q, 2H); 6.18 (s, 2H); 7.26 (br d, J=9.2 Hz, 1H); 7.38 (d, J=8.5 Hz, 2H); 7.59 (s, 1H); 7.61 (t, J=1.9 Hz, 1H); 7.67 (br s, 1H); 7.72 (d, J=8.5 Hz, 2H); 7.74 (br d, J=9.2 Hz, 1H); 7.82 (d, J=1.9 Hz, 2H). MS Cald for C28H20Cl2F3N5O4: 617.08; Obsd (M+1): 618.21.

reactant | PyBOP | 70 umol, 38 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | 4-({3-(3,5-dichlorophenyl)-5-[6-(trifluoromethoxy)-1H-benzimidazol-2-yl]-1H-pyrazol-1-yl}methyl)benzoic acid | 36 umol, 20 mg | ClC=1C=C(C=C(C1)Cl)C1=NN(C(=C1)C1=NC2=C(N1)C=C(C=C2)OC(F)(F)F)CC2=CC=C(C(=O)O)C=C2 | C25H15Cl2F3N4O3
reactant | tert-butyl β-alanine hydrochloride | 27 mg, 4 eq. | Cl.C(C)(C)(C)NCCC(=O)O
reactant | DIEA | 40 ul, 6 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
reactant | DMF | 0.3 ml | CN(C)C=O | C3H7NO
product | tert-butyl N-[4-({3-(3,5-dichlorophenyl)-5-[6-(trifluoromethoxy)-1H-benzimidazol-2-yl]-1H-pyrazol-1-yl}methyl)benzoyl]-β-alaninate | ClC=1C=C(C=C(C1)Cl)C1=NN(C(=C1)C1=NC2=C(N1)C=C(C=C2)OC(F)(F)F)CC2=CC=C(C(=O)NCCC(=O)OC(C)(C)C)C=C2 | C32H28Cl2F3N5O4
